US04853404
0.9 g of ethyl [2,3-dichloro-4-(1-ethoxymethyl-5-pyrazolylcarbonyl)phenoxy]acetate is suspended in 20 ml of ethanol, and 10 ml of an aqueous 10% sodium hydroxide solution are added thereto. The mixture is stirred at room temperature for 1 hour. The reaction mixture is concentrated to remove ethanol and adjusted to pH 1-2 with 10% hydrochloric acid. The resulting crystals are collected by filtration, washed successively with water and isopropyl ether, and dried to give 0.82 g of [2,3-dichloro-4-(1-ethoxymethyl-5-pyrazolylcarbonyl)phenoxy]acetic acid.

reactant | ethyl [2,3-dichloro-4-(1-ethoxymethyl-5-pyrazolylcarbonyl)phenoxy]acetate | 0.9 g | ClC1=C(OCC(=O)OCC)C=CC(=C1Cl)C(=O)C1=CC=NN1COCC | C17H18Cl2N2O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | [2,3-dichloro-4-(1-ethoxymethyl-5-pyrazolylcarbonyl)phenoxy]acetic acid | 0.82 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(=O)C1=CC=NN1COCC | C15H14Cl2N2O5
